US06156700
Preparation of 3-(3-Isopropyl-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid (2.00 g, 0.00484 mol) and quinoline (20.0 ml) is heated to 140° C. with stirring. After 15 minutes, the mixture is cooled to room temperature, diluted with ethyl acetate, washed sequentially with 2 N hydrochloric acid, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to a yellow solid. The solid is recrystallized from hexanes:methylene chloride to give the title compound as an off-white solid (0.640 g, 35.8%, mp 139-140° C.) which is identified by NMR and IR spectral analyses.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid | 0.00484 mol, 2.00 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)O)(C)C)C1)=O | C17H14F3N3O4S
reactant | quinoline | 20.0 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Isopropyl-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.640 g, 35.8% | C(C)(C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C16H14F3N3O2S
